US08067426B2
Intermediate 57: 2-(Cyclobutyloxy)-8-(methyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
8-Bromo-2-(cyclobutyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (1.79 g, 4.86 mmol) was dissolved in anhydrous methanol (25 ml) and 25% sodium methoxide in methanol (2.274 ml, 9.72 mmol) was added under nitrogen. The mixture was heated at 67° C. for 24 hours and then cooled to room temperature. Ethyl acetate and water were added and the layers separated. The aqueous layer was extracted twice more with ethyl acetate, and the organic extracts were combined, washed with brine, dried over anhydrous magnesium sulfate, and evaporated to give the title compound as a cream foam (1.27 g).

reactant | 8-Bromo-2-(cyclobutyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 4.86 mmol, 1.79 g | BrC=1N(C2=NC(=NC(=C2N1)N)OC1CCC1)C1OCCCC1 | C14H18BrN5O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 9.72 mmol, 2.274 ml | CO | CH4O
product | 2-(Cyclobutyloxy)-8-(methyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.27 g | C1(CCC1)OC1=NC(=C2N=C(N(C2=N1)C1OCCCC1)OC)N | C15H21N5O3
